US07495016B2
13.5 Preparation of 3-[4-(2-hydroxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide according to General Procedure IX
3-[4-(2-Benzyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide (1.8 g, crude) was dissolved in 50 mL of EtOH and 20 mL of EtOAc. 10% Pd/C (200 mg) was added and the mixture was stirred under H2 for 20 h. After filtration and concentration, the residue was purified on silica gel to give 1.2 g of the desired product.

reactant | 3-[4-(2-Benzyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide | 1.8 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)C1CC(N(C1)C=1C=C(C(=O)N)C=CC1)=O | C25H24N2O4
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 3-[4-(2-hydroxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide | 1.2 g | OC1=C(C=CC(=C1)OC)C1CC(N(C1)C=1C=C(C(=O)N)C=CC1)=O | C18H18N2O4
